US07098212B2
(2-{2-[(2R)-2-Carbamoylmethyl-4-(4-fluoro-benzyl)-piperazin-1-yl]-2-oxo-ethoxy}-5-chloro-phenoxy)-acetic acid
A solution of (2-{2-[(2R)-2-carbamoylmethyl-4-(4-fluoro-benzyl)-piperazin-1-yl]-2-oxo-ethoxy}-5-chloro-phenoxy)-acetic acid tert-butyl ester (0.070 g, 0.13 mmol) in dichloromethane (1 mL) and trifluoroacetic acid (0.10 mL) was stirred for 3.5 h and then concentrated. The resulting residue was diluted with dichloromethane and the excess trifluoroacetic acid was quenched with saturated aqueous sodium carbonate. The aqueous layer was neutralized with 0.1N hydrochloric acid and extracted one time with dichloromethane/methanol (1:1) and twice with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered and concentrated to give the title compound (0.054 g, LRMS: 492.4, 494.4).

reactant | (2-{2-[(2R)-2-carbamoylmethyl-4-(4-fluoro-benzyl)-piperazin-1-yl]-2-oxo-ethoxy}-5-chloro-phenoxy)-acetic acid tert-butyl ester | 0.13 mmol, 0.070 g | C(C)(C)(C)OC(COC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)CC(N)=O)=O | C27H33ClFN3O6
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 0.10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2-{2-[(2R)-2-Carbamoylmethyl-4-(4-fluoro-benzyl)-piperazin-1-yl]-2-oxo-ethoxy}-5-chloro-phenoxy)-acetic acid | 0.054 g | C(N)(=O)C[C@H]1N(CCN(C1)CC1=CC=C(C=C1)F)C(COC1=C(OCC(=O)O)C=C(C=C1)Cl)=O | C23H25ClFN3O6
